US07557213B2
Experimental conditions analogous to those described for Step 1 of Example 1 were used with 0.50 g (1.86 mmol) of 3-Ethoxy-2-(3-fluoro-4-methoxy-benzoyl) acrylic acid methyl ester, 0.20 g (1.86 mmol) of 6-Methyl-pyridin-3-ylamine, and 15 mL of diphenyl ether to yield 0.233 g of 3-(3-Fluoro-4-methoxy-benzoyl)-6-methyl-1H-[1,5]naphthyridin-4-one.

reactant | 3-Ethoxy-2-(3-fluoro-4-methoxy-benzoyl) acrylic acid methyl ester | 1.86 mmol, 0.50 g | COC(C(=COCC)C(C1=CC(=C(C=C1)OC)F)=O)=O | C14H15FO5
reactant | 6-Methyl-pyridin-3-ylamine | 1.86 mmol, 0.20 g | CC1=CC=C(C=N1)N | C6H8N2
reactant | diphenyl ether | 15 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 3-(3-Fluoro-4-methoxy-benzoyl)-6-methyl-1H-[1,5]naphthyridin-4-one | 0.233 g | FC=1C=C(C(=O)C2=CNC3=CC=C(N=C3C2=O)C)C=CC1OC | C17H13FN2O3
